US08431563B2
A 250-mL round-bottomed flask was charged with (2-(2-((2S)-4-((5-bromo-2-thiophenyl)sulfonyl)-2-methyl-1-piperazinyl)-5-pyrimidinyl)-1,1,1,3,3,3-hexafluoro-2-propanol (1.00 g, 1.76 mmol), 1,1-diphenylmethanimine (0.382 g, 2.11 mmol), 30 mL of toluene, sodium tert-butoxide (0.405 g, 4.22 mmol), rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (BINAP) (0.273 mL, 0.439 mmol, Sigma-Aldrich, St. Louis, Mo.), and tris(dibenzylideneacetone)dipalladium (0) (0.101 g, 0.176 mmol, Strem Chemicals, Newburyport, Mass.). The round-bottomed flask was sealed and heated at 90° C. for 15 h. After that time, the mixture was diluted with EtOAc (50 mL) and filtered. The filtrate was concentrated to give a brown oil. To this was added 25 mL of THF and 15 mL of 5M HCl in dioxane. After 15 min, 17 mL of 5M NaOH was added and the mixture was extracted with EtOAc. The layers were separated, the organics were dried (MgSO4), filtered, and concentrated to give an orange oil. Purification via column chromatography on silica gel (120 g of silica, 0 to 65% EtOAc in hexanes) gave 2-(2-((2S)-4-((5-amino-2-thiophenyl)sulfonyl)-2-methyl-1-piperazinyl)-5-pyrimidinyl)-1,1,1,3,3,3-hexafluoro-2-propanol (0.510 g) as a tan solid. 1H NMR (400 MHz, CD3OD) δ=8.57 (s, 2H), 7.19 (d, J=4.1 Hz, 1H), 6.04 (d, J=4.1 Hz, 1H), 5.10 (br. s., 1H), 4.71 (d, J=13.7 Hz, 1H), 3.71 (d, J=11.7 Hz, 1H), 3.56 (d, J=11.5 Hz, 1H), 3.31-3.23 (m, 1H), 2.61 (dd, J=3.7, 11.5 Hz, 1H), 2.46 (dt, J=3.5, 11.8 Hz, 1H), 1.32 (d, J=6.8 Hz, 3H). m/z (ESI, +ve ion) 506.0 (M+H)+. GK-GKRP IC50 (Binding)=0.252 μM; GK-GKRP EC50 (LC MS/MS-2)=0.161 μM.

reactant | 2-(2-((2S)-4-((5-bromo-2-thiophenyl)sulfonyl)-2-methyl-1-piperazinyl)-5-pyrimidinyl)-1,1,1,3,3,3-hexafluoro-2-propanol | 1.76 mmol, 1.00 g | BrC1=CC=C(S1)S(=O)(=O)N1C[C@@H](N(CC1)C1=NC=C(C=N1)C(C(F)(F)F)(C(F)(F)F)O)C | C16H15BrF6N4O3S2
reactant | 1,1-diphenylmethanimine | 2.11 mmol, 0.382 g | C1(=CC=CC=C1)C(=N)C1=CC=CC=C1 | C13H11N
reactant | sodium tert-butoxide | 4.22 mmol, 0.405 g | CC(C)([O-])C.[Na+]
reactant | rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.439 mmol, 0.273 mL | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | HCl | 5M, 15 mL | Cl | ClH
reactant | NaOH | 5M, 17 mL | [OH-].[Na+]
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.176 mmol, 0.101 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(2-((2S)-4-((5-amino-2-thiophenyl)sulfonyl)-2-methyl-1-piperazinyl)-5-pyrimidinyl)-1,1,1,3,3,3-hexafluoro-2-propanol | 0.510 g | NC1=CC=C(S1)S(=O)(=O)N1C[C@@H](N(CC1)C1=NC=C(C=N1)C(C(F)(F)F)(C(F)(F)F)O)C | C16H17F6N5O3S2
